US05731452
Using as the materials and reagents 1-iodo-3-(2-tetrahydropyranyloxy)-octane (263 mg, 0.773 mmol), tert-butyllithium (1.54 mol/l, 1.0 ml, 1.55 mmol), 1-hexynylcopper (112 mg), hexamethylphosphorous triamide (281 μl), (4R)-4-(tert-butyldimethylsiloxy)-2-(5-methoxycarbonyl-pentylthio)-2-cyclopenten-1-one (240 mg, 0.644 mmol), and butyric anhydride (284 μl), the same procedure was performed as in Example 1 to obtain methyl(11R,12S,15S)-9-butyryloxy-11-tert-butyldimethylsiloxy-15-(2-tetrahydropyranyloxy)-7-thia-8-prostenoate (171 mg, 40%).

reactant | 1-iodo-3-(2-tetrahydropyranyloxy)-octane | 0.773 mmol, 263 mg | ICCC(CCCCC)OC1OCCCC1 | C13H25IO2
reactant | tert-butyllithium | 1.55 mmol, 1.54 mol/l, 1.0 ml | C(C)(C)(C)[Li]
reactant | 1-hexynylcopper | 112 mg | C(#CCCCC)[Cu]
reactant | (4R)-4-(tert-butyldimethylsiloxy)-2-(5-methoxycarbonyl-pentylthio)-2-cyclopenten-1-one | 0.644 mmol, 240 mg | O([Si](C)(C)C(C)(C)C)[C@H]1C=C(C(C1)=O)SCCCCCC(=O)OC | C18H32O4SSi
reactant | butyric anhydride | 284 μl | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | hexamethylphosphorous triamide | 281 μl | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | methyl(11R,12S,15S)-9-butyryloxy-11-tert-butyldimethylsiloxy-15-(2-tetrahydropyranyloxy)-7-thia-8-prostenoate | 171 mg, 40% | C(CCC)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)CC[C@H](CCCCC)OC1OCCCC1 | C35H64O7SSi
